US06197962B1
First, 4.29 g (51.1 mmol) of tiglic aldehyde and 8.35 g (50.0 mmol) of benzenesulfonyl cyanide were introduced to the same reaction vessel as in Example 1. Toluene (15 ml) as the solvent and butanol (1.5 ml) were added, and 1.15 g (5.00 mmol) of tributyl borate was added. Then the mixture was heated under reflux for 6 hours while agitating at an internal temperature of 119° C. in a nitrogen atmosphere, separating and removing water that was produced. After this solution was cooled to room temperature, the low-boiling components, such as solvent, etc., were removed under reduced pressure and the resulting concentrate was cooled in an ice bath to precipitate crystals. The crystals were filtered with a glass filter and washed with 10 ml of toluene that had been cooled to 5° C. or lower. Then the crystals were dried for 2 hours in vacuo to give 10.5 g of 2-benzenesulfonyl-5-methylpyridine as colorless crystals (purity of 99%, yield of 89% based on benzenesulfonyl cyanide).

reactant | benzenesulfonyl cyanide | 50.0 mmol, 8.35 g | C1(=CC=CC=C1)S(=O)(=O)C#N | C7H5NO2S
reactant | Toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
reactant | tributyl borate | 5.00 mmol, 1.15 g | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
solvent | butanol | 1.5 ml | C(CCC)O | C4H10O
product | 2-benzenesulfonyl-5-methylpyridine | 10.5 g, yield of 89% | C1(=CC=CC=C1)S(=O)(=O)C1=NC=C(C=C1)C | C12H11NO2S
